US06900347B2
This example is designed to produce Z-11-hexadecenyl acetate through the reaction shown in FIG. 3. To a dry 50-mL round-bottomed flask is added 4.5 g (0.026 mol) 7-octenyl acetate, 3.3 g (0.026 mol) 1,2-epoxy-5-cyclooctene and a magnetic stir bar. The solution is cooled to 0° C. and sparged with nitrogen for 10 minutes. Grubbs catalyst 848 (1.10 g, 1.30 mmol) is added and the reaction is stirred at 0° C. for 24 hours. The reaction is quenched by addition of 15 ml of 2M THP in IPA solution, warmed to 60° C. with stirring for 24 hours. Water (5 mL) is added and stirred vigorously for 10 minutes. The aqueous layer is separated, and the product washed with brine solution and dried over sodium sulfate. The product is purified by vacuum distillation, and then hydrogenated using 10% palladium on carbon (Pd/C) with a 5 psi overpressure of hydrogen. The catalyst is filtered off without further purification. The epoxide is converted to the cis olefin as described in (Tetrahedron Lett. 22, 3551 (1981)). There is sufficient detail to run the reaction 11,12-Epoxy-hexadecyl acetate is treated with 2.87 g (0.026 mol) chlorotrimethylsilane and 3.96 g (0.026 mol) sodium iodide. The reaction is slowly heated from room temperature to 60° C., until the starting materials are consumed. The mixture is then quenched with water and the organic phase was washed with an aqueous solution of sodium bicarbonate, and finally water. The organic phase is dried over sodium sulfate, acetylated with acetic anhydride and acetic acid and vacuum distilled to yield Z-11-hexadecenyl acetate.

reactant | 7-octenyl acetate | 0.026 mol, 4.5 g | C(C)(=O)OCCCCCCC=C | C10H18O2
reactant | 1,2-epoxy-5-cyclooctene | 0.026 mol, 3.3 g | O1C2C1CCC=CCC2 | C8H12O
reactant | chlorotrimethylsilane | 0.026 mol, 2.87 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium iodide | 0.026 mol, 3.96 g | [I-].[Na+]
catalyst | Grubbs catalyst | 1.30 mmol, 1.10 g | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
product | Z-11-hexadecenyl acetate | C(C)(=O)OCCCCCCCCCC\C=C/CCCC | C18H34O2
